US04207341
4-[2-(2-Methoxy-5-methylbenzamido)-ethyl]-phenylacetic acid
with 5-bromo-2-methoxybenzoyl chloride, via ethyl 4-[2-(5-bromo-2-methoxybenzamido)-ethyl]-phenylacetate (oil), 4-[2-(5-bromo-2-methoxybenzamido)-ethyl]-phenylacetic acid; m.p. 148°-150° C., after recrystallization from isopropanol.

reactant | 5-bromo-2-methoxybenzoyl chloride | BrC=1C=CC(=C(C(=O)Cl)C1)OC | C8H6BrClO2
reactant | ethyl 4-[2-(5-bromo-2-methoxybenzamido)-ethyl]-phenylacetate | BrC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)OCC)C1)OC | C20H22BrNO4
reactant | 4-[2-(5-bromo-2-methoxybenzamido)-ethyl]-phenylacetic acid | BrC=1C=CC(=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)O)C1)OC | C18H18BrNO4
product | 4-[2-(2-Methoxy-5-methylbenzamido)-ethyl]-phenylacetic acid | COC1=C(C(=O)NCCC2=CC=C(C=C2)CC(=O)O)C=C(C=C1)C | C19H21NO4
